US03998958
m-Aminothioanisole (27.8 g., 0.2 mole) in 100 ml dry dimethoxyethane is added to a saturated solution of phosgene in 200 ml dry dimethoxyethane. Phosgene is passed into the refluxing mixture for a further 4 hr. and then the mixture is heated under nitrogen for 21 hours. Solvent is removed in vacuo to afford m-methylthiophenyl isocyanate as an amber oil which is dissolved in benzene for use in the next step.

reactant | m-Aminothioanisole | 0.2 mole, 27.8 g | NC=1C=C(C=CC1)SC | C7H9NS
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 200 ml | C(OC)COC | C4H10O2
product | m-methylthiophenyl isocyanate | CSC=1C=C(C=CC1)N=C=O | C8H7NOS
